US04524068
Preparation of a γ-cyclodextrin-piperonyl butoxide complex in solution
1.5 g (1.16 millimoles) of γ-cyclodextrin are dissolved in 10 ml of distilled water at room temperature whereupon a solution of 0.5 ml (0.53 g, 1.56 millimoles) of piperonyl butoxide in 10 ml of 96% by Vol. ethanol is added. One proceeds furtheron as described in Example 1. Thus 1.32 g of an inclusion complex of γ-cyclodextrin and piperonyl butoxide are obtained. The piperonyl butoxide content of the complex amounts to 26.5% which corresponds to a molar ratio of 1.38 moles of PBO/1 moles of γ-cyclodextrin. The solubility of the complex is 0.165 mg/ml, at 20° C., as measured by shaking for an hour.

reactant | piperonyl butoxide | CCCCOCCOCCOCC=1C=C2C(=CC1CCC)OCO2 | C19H30O5
reactant | γ-cyclodextrin | 1 moles | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O39
product | γ-cyclodextrin piperonyl butoxide | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O.CCCCOCCOCCOCC=1C=C2C(=CC1CCC)OCO2 | InChI=1S/C48H80O39.C19H30O5/c49-1-9-17-18(57)27(66)42(74-9)82-35-11(3-51)76-44(29(68)21(35)60)84-37-13(5-53)78-46(31(70)23(37)62)86-39-15(7-55)80-48(33(72)25(39)64)87-40-16(8-56)79-47(32(71)26(40)65)85-38-14(6-54)77-45(30(69)24(38)63)83-36-12(4-52)75-43(28(67)22(36)61)81-34-10(2-50)73-41(17)20(59)19(34)58;1-3-5-7-20-8-9-21-10-11-22-14-17-13-19-18(23-15-24-19)12-16(17)6-4-2/h9-72H,1-8H2;12-13H,3-11,14-15H2,1-2H3/t9-,10-,11-,12-,13-,14-,15-,16-,17?,18+,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34?,35-,36-,37-,38-,39-,40-,41?,42?,43?,44-,45-,46-,47-,48-;/m1./s1
